US04698340
A suspension of ethyl 6-methyl-2-phenyl-4-(4-nitrophenyl)-5-pyrimidinecarboxylate (39 g) and aqueous sodium hydroxide (5.19 g in 10 ml H2O) in ethanol (390 ml) and water (195 ml) was refluxed for 10 hours. After evaporating the solvent, the residue was dissolved in a suspension of water (200 ml) and chloroform (200 ml) under stirring. The separated aqueous layer was adjusted to pH 3.0 with 10% aqueous HCl. The resulting precipitate was collected by filtration, washed with water and dried in vacuo to give 6-methyl-2-phenyl-4-(4-nitrophenyl)-5-pyrimidinecarboxylic acid (14.3 g).

reactant | ethyl 6-methyl-2-phenyl-4-(4-nitrophenyl)-5-pyrimidinecarboxylate | 39 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C20H17N3O4
reactant | sodium hydroxide | 10 ml, 5.19 g | [OH-].[Na+]
solvent | ethanol | 390 ml | C(C)O | C2H6O
solvent | water | 195 ml | O | H2O
product | 6-methyl-2-phenyl-4-(4-nitrophenyl)-5-pyrimidinecarboxylic acid | 14.3 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C18H13N3O4
